US05302724
The procedure of Example 3A was followed with 3-methylthiophene (10.0 g, 102 mmole), chlorosulfonic acid (29.58 g, 255 mmoles) in chloroform (200 ml), concentrated ammonium hydroxide, to provide 3-methyl-2-thiophenesulfonamide.

reactant | 3-methylthiophene | 102 mmole, 10.0 g | CC1=CSC=C1 | C5H6S
reactant | chlorosulfonic acid | 255 mmoles, 29.58 g | ClS(=O)(=O)O | ClHO3S
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-methyl-2-thiophenesulfonamide | CC1=C(SC=C1)S(=O)(=O)N | C5H7NO2S2
